US05466801
One equivalent each of hydroxyacetic acid (10.0 g), dicyclohexylcarbodiimide, (L)-alanine ethyl ester hydrochloride and imidazole was stirred in 500 mL acetonitrile. The reaction mixture, initially at 0° C. was allowed to warm to room temperature overnight and then heated at 65° C. for 2 hours. After the addition of an equal volume of toluene, the reaction mixture was filtered and the solvent removed by rotovaping from the filtrate to give crude product. An aliquot of the crude product was chromatographed on silica gel to give N-(hydroxyacetyl)alanine ethyl ester (61% yield). 1H NMR (300 MHz, DMSO-d6 /TMS): δ1.19 (t , 3H, J=7.1 Hz), δ1.31 (d, 3H, J=7.2 Hz), δ3.83 (s, 2H), δ4.09 (d×q, 2H, J=1.2 and 7.1 Hz, irradiation in the methyl region eliminates the smaller coupling constant), δ4.32 (d×q, 1H, J=7.3 and 7.3), and δ 8.31 (br d, 1H, J=7.2 Hz). 13C NMR (75 MHz, CDCl3 /TMS): 13.59, 17.54, 47.31, 61.02, 61.48, and 172.17. [α]25D =-4.1°±0.4° (c=1.99, CHCl3). HRMS: calcd for C7H14NO4 (M+H)+, 176.0923; found, 176.0921.

reactant | hydroxyacetic acid | 10.0 g, One equivalent | OCC(=O)O | C2H4O3
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (L)-alanine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)C)=O
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(hydroxyacetyl)alanine ethyl ester | 61% yield | C(C)OC([C@@H](NC(CO)=O)C)=O | C7H13NO4
